US07541357B2
A solution of trifluoromethanesulfonic acid 1H-inden-2-yl ester (2.58 g, 10.39 mmol), bis(pinacolato)diboron (5.28 g, 20.79 mmol) and KOAc (3.06 g, 31.18 mmol) in DMSO (54 mL) was purged with argon. To this mixture was added PdCl2dppf-CH2Cl2 (0.679 g, 0.83 mmol). The resulting mixture was purged with argon and heated to 80° C. for 5 h. The cooled reaction mixture was diluted with water (50 mL) and extracted with CH2Cl2 (1×200 mL, 2×100 mL). The combined organic layers was concentrated to a smaller volume under reduced pressure. The residue was diluted with EtOAc (200 mL), washed with water (1×50 mL, 2×25 mL), brine (2×25 mL), dried (Na2SO4), and concentrated under reduced pressure to afford 2-(1H-inden-2-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane as a black oil, which carried onto Step C whithout further purification.

reactant | trifluoromethanesulfonic acid 1H-inden-2-yl ester | 10.39 mmol, 2.58 g | C1C(=CC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F | C10H7F3O3S
reactant | bis(pinacolato)diboron | 20.79 mmol, 5.28 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 31.18 mmol, 3.06 g | CC(=O)[O-].[K+]
solvent | DMSO | 54 mL | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
product | 2-(1H-inden-2-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | C1C(=CC2=CC=CC=C12)B1OC(C(O1)(C)C)(C)C | C15H19BO2
